data/polar.json
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[CH3:1][C:9](=[C:2]=[N-:16])[c:17]1[cH:20][cH:24][cH:28][cH:25][cH:21]1.[cH:3]1[cH:10][cH:14][cH:13][cH:6][c:26]1[P:8](=[O:18])([c:27]1[cH:4][cH:11][cH:15][cH:12][cH:5]1)[N:29]=[CH:7][c:19]1[cH:31][cH:22][cH:30][cH:23][cH:32]1>>[CH3:1][C:9]([C:2]#[N:16])([CH:7]([c:19]1[cH:31][cH:22][cH:30][cH:23][cH:32]1)[N:29]=[P:8]([O-:18])([c:26]1[cH:3][cH:10][cH:14][cH:13][cH:6]1)[c:27]1[cH:4][cH:11][cH:15][cH:12][cH:5]1)[c:17]1[cH:20][cH:24][cH:28][cH:25][cH:21]1", "epd": [["LP-/Pi+", [16], [2, 16]], ["Pi-/Sigma+", [9, 2], [9, 7]], ["Pi-/Pi+", [7, 29], [29, 8]], ["Pi-/LP+", [8, 18], [18]]]}
{"reaction_name": "Silyl enol ether addition", "rsmi": "[CH2:1]=[C:2]([CH3:3])[O:4][Si:5]([CH3:6])([CH3:7])[CH3:8].[CH3:9][C:10]([H:11])=[O:12]>>[CH3:9][C:10]([H:11])([O:12][Si:5]([CH3:6])([CH3:7])[CH3:8])[CH2:1][C:2](=[O:4])[CH3:3]", "epd": [["Pi-/Sigma+", [1, 2], [1, 10]], ["Sigma-/Pi+", [4, 5], [2, 4]], ["Pi-/Sigma+", [10, 12], [5, 12]]]}
{"reaction_name": "Thioester formation", "rsmi": "[C:2]([Cl:3])(=[O:4])[CH3:6].[S:1]([CH3:5])[H:7]>>[Cl:3][H:7].[S:1]([C:2](=[O:4])[CH3:6])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Pi-/LP+", [2, 4], [4]], ["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 7]], ["Sigma-/LP+", [1, 7], [1]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH:1]([C:9](=[O:14])[c:20]1[cH:2][cH:29][c:19]([N:28]([CH3:21])[CH3:22])[cH:30][cH:3]1)=[S:31]([CH3:6])[CH3:7].[S:4]([c:10]1[cH:24][cH:15][cH:12][cH:18][cH:27]1)([C:23]([S:5]([c:11]1[cH:25][cH:16][cH:13][cH:17][cH:26]1)(=[O:32])=[O:33])=[CH2:8])(=[O:34])=[O:35]>>[CH:1]([CH2:8][C-:23]([S:4]([c:10]1[cH:24][cH:15][cH:12][cH:18][cH:27]1)(=[O:34])=[O:35])[S:5]([c:11]1[cH:25][cH:16][cH:13][cH:17][cH:26]1)(=[O:32])=[O:33])([C:9](=[O:14])[c:20]1[cH:2][cH:29][c:19]([N:28]([CH3:21])[CH3:22])[cH:30][cH:3]1)[S+:31]([CH3:6])[CH3:7]", "epd": [["Pi-/Sigma+", [1, 31], [1, 8]], ["Pi-/LP+", [8, 23], [23]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:9]1[N+:17](=[CH:4][CH:34]=[CH:10][c:28]2[cH:5][cH:21][cH:3][cH:22][cH:6]2)[CH:15]([CH2:35][c:32]2[cH:37][cH:12][cH:23][cH:13][cH:38]2)[C:26](=[O:7])[N:33]1[CH3:25])([CH3:29])([CH3:30])[CH3:31].[cH:2]1[cH:16][cH:11][c:24]2[c:8]([cH:36]1)[CH:39]([Zn-:20]([Cl:18])[Cl:19])[CH:27]=[CH:14]2>>[C:1]([CH:9]1[N:17]([CH:4]=[CH:34][CH:10]([c:28]2[cH:5][cH:21][cH:3][cH:22][cH:6]2)[CH:39]2[c:8]3[c:24]([cH:11][cH:16][cH:2][cH:36]3)[CH:14]=[CH:27]2)[CH:15]([CH2:35][c:32]2[cH:37][cH:12][cH:23][cH:13][cH:38]2)[C:26](=[O:7])[N:33]1[CH3:25])([CH3:29])([CH3:30])[CH3:31].[Cl:18][Zn:20][Cl:19]", "epd": [["Sigma-/Sigma+", [39, 20], [39, 10]], ["Pi-/Pi+", [10, 34], [34, 4]], ["Pi-/LP+", [4, 17], [17]]]}
{"reaction_name": "Cyclic carbonate opening", "rsmi": "[O-:2][CH3:5].[O:1]=[C:8]1[O:6][CH2:3][CH2:4][O:7]1>>[O:1]=[C:8]([O:2][CH3:5])[O:7][CH2:4][CH2:3][O-:6]", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Pi-/LP+", [1, 8], [1]], ["LP-/Pi+", [1], [1, 8]], ["Sigma-/LP+", [6, 8], [6]]]}
{"reaction_name": "Addition–elimination on nitroalkenes", "rsmi": "[O-:1][CH3:3].[O-:2][N+:7](=[O:5])[CH:6]=[CH2:4]>>[O-:2][N:7]=[O:5].[O:1]([CH3:3])[CH:6]=[CH2:4]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [6, 7], [7]]]}
{"reaction_name": "Semipinacol rearrangement", "rsmi": "[CH2:1]1[CH2:6][C:4]([O:2][H:5])([CH2+:3])[CH2:7]1>>[CH2:1]1[CH2:6][C:4](=[O:2])[CH2:3][CH2:7]1.[H+:5]", "epd": [["Sigma-/Sigma+", [4, 7], [3, 7]], ["LP-/Pi+", [2], [2, 4]], ["Sigma-/LP+", [2, 5], [2]]]}
{"reaction_name": "Conjugate addition to a coumarin / α-pyrone system", "rsmi": "[CH2:1]1[CH2:19][N+:29]2([CH2:27][c:11]3[cH:6][c:24]4[cH:5][cH:4][cH:25][cH:12][c:22]4[o:17][c:10]3=[O:13])[CH2:20][CH2:2][N:28]1[CH2:3][CH2:21]2.[cH:7]1[cH:14][c:18]([S-:26])[cH:15][cH:8][c:16]1[O:23][CH3:9]>>[CH2:1]1[CH2:19][N+:29]2([CH2:27][C:11]3=[C:10]([O-:13])[O:17][c:22]4[cH:12][cH:25][cH:4][cH:5][c:24]4[CH:6]3[S:26][c:18]3[cH:14][cH:7][c:16]([O:23][CH3:9])[cH:8][cH:15]3)[CH2:20][CH2:2][N:28]1[CH2:3][CH2:21]2", "epd": [["LP-/Sigma+", [26], [26, 6]], ["Pi-/Pi+", [6, 11], [11, 10]], ["Pi-/LP+", [10, 13], [13]]]}
{"reaction_name": "Kabachnik–Fields reaction", "rsmi": "[CH3:1][O:3][P:10]([O:4][CH3:2])(=[O:8])[H:13].[CH3:5][C:6]([H:9])=[O:11].[N:7]([CH3:12])([H:14])[H:15]>>[CH3:1][O:3][P:10]([O:4][CH3:2])([C:6]([CH3:5])([N:7]([CH3:12])[H:15])[H:9])=[O:8].[O:11]([H:13])[H:14]", "epd": [["Sigma-/Sigma+", [10, 13], [6, 10]], ["Sigma-/LP+", [6, 11], [11]], ["LP-/Sigma+", [11], [11, 14]], ["Sigma-/LP+", [7, 14], [7]], ["LP-/Sigma+", [7], [6, 7]], ["Pi-/LP+", [6, 11], [11]], ["LP-/Sigma+", [11], [11, 13]]]}
